US06624121B1
2,4-Dichloro-3-(4,5-dihydro-4-methyl-5-oxo-1H-tetrazol-1-yl)benzoic acid (3.42 g) and thionylchloride (4.22 g) were added to 1,2-dichloroethane (50 ml). The mixture, after adding several drops of N,N-dimethylformamide, was refluxed upon heating for 4 hours. After cooling, the solvent was distilled off to obtain crude 2,4-dichloro-3-(4,5-dihydro4-methyl-5-oxo-1H-tetrazol-1-yl)benzoyl chloride (3.65 g).

reactant | 2,4-Dichloro-3-(4,5-dihydro-4-methyl-5-oxo-1H-tetrazol-1-yl)benzoic acid | 3.42 g | ClC1=C(C(=O)O)C=CC(=C1N1N=NN(C1=O)C)Cl | C9H6Cl2N4O3
reactant | thionylchloride | 4.22 g | S(=O)(Cl)Cl | Cl2OS
catalyst | N,N-dimethylformamide | several drops | CN(C=O)C | C3H7NO
solvent | 1,2-dichloroethane | 50 ml | ClCCCl | C2H4Cl2
product | 2,4-dichloro-3-(4,5-dihydro4-methyl-5-oxo-1H-tetrazol-1-yl)benzoyl chloride | 3.65 g | ClC1=C(C(=O)Cl)C=CC(=C1N1N=NN(C1=O)C)Cl | C9H5Cl3N4O2
